US06924278B2
To a solution of (3R)-4-benzyl-3-(hydroxymethyl)-morpholine (13.67 g) in methanol (140 ml) and water (10 ml) was added ammonium formate (10.4 g) and palladium on activated carbon (50%, 1.4 g). The resulting mixture was stirred at 60° C. for 3 hours. After removal of insoluble material by filtration, the filtrate was concentrated under reduced pressure to give crude amine (16.43 g). To a solution of the obtained amine in tetrahydrofuran (160 ml) were added triethylamine (32.2 ml) and di-tert-butyl dicarbonate (50.4 g) at 0° C. After stirring at room temperature for 12 hours, the mixture was quenched with water and extracted with ethyl acetate three times. The organic layer was washed with brine, dried over magnesium sulfate, and evaporated under reduced pressure to give crude oil which was purified by column chromatography on a silica gel using a mixture of ethyl acetate and hexanie (6:4) as eluent to give (3R)-4-(tert-butoxycarbonvl)-3-(hydroxymethyl)morpholine (8.64 g) as a colorless solid.

reactant | (3R)-4-benzyl-3-(hydroxymethyl)-morpholine | 13.67 g | C(C1=CC=CC=C1)N1[C@@H](COCC1)CO | C12H17NO2
reactant | ammonium formate | 10.4 g | C(=O)[O-].[NH4+]
reactant | triethylamine | 32.2 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 50.4 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 140 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
catalyst | palladium on activated carbon | 1.4 g | [Pd] | Pd
solvent | tetrahydrofuran | 160 ml | O1CCCC1 | C4H8O
product | (3R)-4-(tert-butoxycarbonvl)-3-(hydroxymethyl)morpholine | 8.64 g | C(C)(C)(C)OC(=O)N1[C@@H](COCC1)CO | C10H19NO4
